US07163947B2
A solution of N-(1H-imidazo[4,5-c]quinolin-1-yl)isopropylideneamine (3.48 g, 15.5 mmol) in 75 mL of methanol was cooled in an ice water bath. The solution was treated over 5 min with sodium borohydride (2.94 g, 77.6 mmol). After 1 h, the reaction mixture was quenched with 20 mL of saturated NH4Cl solution and then concentrated under reduced pressure to yield a brown soild. The solid was partitioned between 80 mL CHCl3 and 20 mL saturated NaHCO3 solution and the phases were separated. The organic portion was washed with water (20 mL), brine (20 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to give a brown solid. The solid was purified by chromatography (SiO2, 95:5:0.5 CHCl3:MeOH:NH4OH) to give 1.28 g of N-(1H-imidazo[4,5-c]quinolin-1-yl)isopropylamine as a tan foam.

reactant | N-(1H-imidazo[4,5-c]quinolin-1-yl)isopropylideneamine | 15.5 mmol, 3.48 g | N1(C=NC=2C=NC=3C=CC=CC3C21)N=C(C)C | C13H12N4
reactant | sodium borohydride | 77.6 mmol, 2.94 g | [BH4-].[Na+]
solvent | methanol | 75 mL | CO | CH4O
product | N-(1H-imidazo[4,5-c]quinolin-1-yl)isopropylamine | 1.28 g | N1(C=NC=2C=NC=3C=CC=CC3C21)NC(C)C | C13H14N4
